US09416135B2
(R)-methyl-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (224 mg, 0.639 mmol) and 2-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol (192 mg, 0.799 mmol) were combined in a small vial and azeotroped with benzene to remove any residual water. A mixture of dioxane (1 mL) and iPr2NEt (0.22 mL, 1.28 mmol) was degassed with N2 for 10 minutes. This mixture was then added to the reaction vial and sealed with a Teflon® coated cap which was then wrapped with Teflon® tape. The resulting suspension was then placed in a 165° C. silicone oil bath at which point the mixture became homogeneous. The resulting solution stirred at 165° C. for 21 h. After the solvents were removed by rotovap, the mixture was purified using ISCO FCC, eluting with 50% EtOAc in Hexanes to obtain 219 mg of (R)-methyl-2-(5-(2-hydroxypropan-2-yl)-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate as a white solid (62% yield, 40% ee).

reactant | (R)-methyl-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.639 mmol, 224 mg | COC(=O)C=1C(=CC2=C(N=C3N2CCN[C@@H]3C(C)C)C1)S(=O)(=O)C | C16H21N3O4S
reactant | 2-(2-chloro-4-(trifluoromethyl)pyrimidin-5-yl)propan-2-ol | 0.799 mmol, 192 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(C)(C)O | C8H8ClF3N2O
reactant | iPr2NEt | 1.28 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (R)-methyl-2-(5-(2-hydroxypropan-2-yl)-4-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 219 mg, 62% yield | COC(=O)C=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(C)(C)O)C1)S(=O)(=O)C | C24H28F3N5O5S
